US04226783
o-Tolunitrile (1.83 g, 0.0156 mole) and dichlorine monoxide (6.79 g, 0.078 mole) in carbon tetrachloride were heated at 75° for 18.5 hrs in a Carrius tube following the procedure described in Example 6. The reaction mixture was dried (MgSO4) and the solvent removed on a rotary evaporator to give a white crystalline solid (4.09 g, purity by HPLC 85.45%, yield 100%). The product was combined with that of a similar run and recrystallized from cyclohexane to give substantially pure 2-trichloromethylbenzonitrile mp 98.9°-100° C.

reactant | o-Tolunitrile | 0.0156 mole, 1.83 g | C=1(C(=CC=CC1)C#N)C | C8H7N
reactant | dichlorine monoxide | 0.078 mole, 6.79 g | O(Cl)Cl | Cl2O
reactant | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-trichloromethylbenzonitrile | yield 100% | ClC(C1=C(C#N)C=CC=C1)(Cl)Cl | C8H4Cl3N
